US07414061B2
2-{4-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-imidazol-1-yl}-pyrimidine
As described for Example 46, 3-(4-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-methyl-isoxazole (97 mg, 0.4 mmol) using 2-chloropyrimidine instead of 4-fluoroacetophenone was converted to the title compound (75 mg, 58%) as a light yellow solid. MS: m/e=322.1 [M+H]+.

reactant | 3-(4-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-methyl-isoxazole | 0.4 mmol, 97 mg | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CNC1)C | C13H10FN3O
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
product | 2-{4-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-imidazol-1-yl}-pyrimidine | 75 mg, 58% | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=NC=CC=N1)C | C17H12FN5O
